EE18BTECH11014_a.NET - OPAMP CLOSED-LOOP FOR PHASE MARGIN 72.0 DEGREES WITH DC SIGNAL AS INPUT
* STEP INPUT
VS	1	0	1
*

RF	2	0	10
RM	2	9	177.8K
XOP1	1 2 	4	OPAMP1
R1	4	5	0.1K
C1	5	0	0.15915N
XOP2	5 0	6	OPAMP2
R2	6	7	1K
C2	7	0	0.15915N
XOP3	7 0	8	OPAMP3
R3	8	9	10K
C3	9	0	0.15915N

.SUBCKT OPAMP1      1   2 4
* INPUT IMPEDANCE
RIN	1	2	100MEG
* DC GAIN (1K)
* OUTPUT BUFFER AND RESISTANCE
EBUFFER	3 0	1 2	1K
ROUT	3	4	5
.ENDS

.SUBCKT OPAMP2      1   2 4
* INPUT IMPEDANCE
RIN	1	2	100MEG
* DC GAIN (10)
* OUTPUT BUFFER AND RESISTANCE
EBUFFER	3 0	1 2	10
ROUT	3	4	5
.ENDS

.SUBCKT OPAMP3      1   2 4
* INPUT IMPEDANCE
RIN	1	2	100MEG
* DC GAIN (10)
* OUTPUT BUFFER AND RESISTANCE
EBUFFER	3 0	1 2	10
ROUT	3	4	5
.ENDS

* ANALYSIS
.AC 	DEC 	10 10 10MEG
.TRAN 	0.001US  1.5US
*

* VIEW RESULTS
.control
run
plot V(1)V(9)
wrdata ee18btech11014_a.dat V(9)
.endc 

.end

